US05610177
a) Di-benzylacetyl chloride
To 20 mL of SOCl2 was added in portions 3.14 g (13.1 mmol) of di-benzylacetic acid and the solution stirred at room temperature overnight. The SOCl2 was removed under reduced pressure and the residue taken up in Et2O and the solvent removed again. There was obtained 3.18 g (94.1% yield) of the product as an oil. The structure was confirmed by NMR spectroscopy.

reactant | di-benzylacetic acid | 13.1 mmol, 3.14 g | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
product | Di-benzylacetyl chloride | 3.18 g, 94.1% yield | C(C1=CC=CC=C1)C(C(=O)Cl)CC1=CC=CC=C1 | C16H15ClO
